US07402595B2
6-bromo-2-[4-(carboxymethylcarbamoyl)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a mixed solution of 6-bromo-2-[4-(methoxycarbonylmethylcarbamoyl)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (100 mg) in methanol (3 ml) and tetrahydrofuran (3 ml) was added 8N aqueous sodium hydroxide solution (0.05 ml), and the mixture was stirred at room temperature for 12 hrs. The solvent was evaporated under reduced pressure, water was added and the mixture was acidified with 1N hydrochloric acid and extracted with dichloromethane. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure, and methanol was added to the obtained residue. The mixture was crystallized to give the title compound (15 mg, 15%).

reactant | 6-bromo-2-[4-(methoxycarbonylmethylcarbamoyl)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 100 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C(NCC(=O)OC)=O | C28H23BrN2O6
reactant | sodium hydroxide | 8N, 0.05 ml | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 6-bromo-2-[4-(carboxymethylcarbamoyl)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 15 mg, 15% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C(NCC(=O)O)=O | C27H21BrN2O6
